US08895738B2
Step A: Preparation of N-(5-pyrimidinylmethylene)-2-pyridinamine
A solution of 2-aminopyridine (11.314 g, 120.3 mmole) and pyrimidine-5-carboxaldehyde (14.0 g, 129.6 mmole) in chloroform (300 mL) was stirred at room temperature for 15 minutes. The volatiles were then removed under reduced pressure (1 hour at 75° C.) to yield a yellow solid. The crude solid was dissolved in chloroform (300 mL), and the solution was stirred for 15 minutes. The volatiles were then removed under reduced pressure (1 hour at 75° C.) to yield a yellow solid. The crude solid was again dissolved in chloroform (300 mL), the solution was stirred for 15 minutes, and the volatiles were removed under reduced pressure (1 hour at 85° C.) to yield a yellow solid. This solid was dried in a vacuum oven overnight at 80° C. to yield 22.090 g (99.8%) of the title compound. 1H NMR (CDCl3) δ 9.26-9.32 (m, 4H), 8.52 (d, 1H), 7.82 (t, 1H), 7.42 (d, 1H), 7.26 (t, 1H).

reactant | 2-aminopyridine | 120.3 mmole, 11.314 g | NC1=NC=CC=C1 | C5H6N2
reactant | pyrimidine-5-carboxaldehyde | 129.6 mmole, 14.0 g | N1=CN=CC(=C1)C=O | C5H4N2O
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(5-pyrimidinylmethylene)-2-pyridinamine | 22.090 g, 99.8% | N1=CN=CC(=C1)C=NC1=NC=CC=C1 | C10H8N4
